US06335334B1
174.) 4-Chloro-N-(2-(1H-benzimidazol-2-yl)-4-chloro-phenyl)-benzenesulfonamide
1.00 g (2.7 mmol) of 5-chloro-2-(4-chloro-phenylsulfonylamino)-benzoyl chloride and 296 mg (2.7 mmol) of o-phenylenediamine in 150 ml of toluene were heated under reflux for 1 h. A small amount of solid was filtered off with suction and the filtrate was evaporated. The residue was taken up in 50 ml of toluene, 600 mg of thionyl chloride were added and the mixture was again heated under reflux for 10 h. Subsequently it was cooled and the precipitated solid was filtered off with suction. 280 mg (25%) of the title compound having a melting point of 225-228° C. were obtained.

reactant | 5-chloro-2-(4-chloro-phenylsulfonylamino)-benzoyl chloride | 2.7 mmol, 1.00 g | ClC=1C=CC(=C(C(=O)Cl)C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C13H8Cl3NO3S
reactant | o-phenylenediamine | 2.7 mmol, 296 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-N-(2-(1H-benzimidazol-2-yl)-4-chloro-phenyl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C1=NC2=C(N1)C=CC=C2 | C19H13Cl2N3O2S
